US07799787B2
N-(3-Methylbutyl)-6-[4-(2-phenylethyl)piperidin-1-yl]pyridazine-3-carboxamide
The title compound was prepared in the same manner as described for Example 16 from 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide and 4-(2-phenylethyl)piperidine. MS (+ESI) m/z 381 (MH+).

reactant | 6-chloro-N-(3-methylbutyl)pyridazine-3-carboxamide | ClC1=CC=C(N=N1)C(=O)NCCC(C)C | C10H14ClN3O
reactant | 4-(2-phenylethyl)piperidine | C1(=CC=CC=C1)CCC1CCNCC1 | C13H19N
product | N-(3-Methylbutyl)-6-[4-(2-phenylethyl)piperidin-1-yl]pyridazine-3-carboxamide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)CCC1=CC=CC=C1)C | C23H32N4O
